US07723330B2
Step D: Preparation of N-(4-(3-(1,4-diazepan-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A 100 mL round-bottomed flask was charged with N-(4-(1-(4-methoxybenzyl)-3-(1,4-diazepan-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide (60.7 mg, 0.0894 mmol) and CF3COOH (5 mL). The reaction mixture was stirred at 80° C. overnight. The solvent was removed and the residue was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to afford product, which was further purified by preparative HPLC to afford the product (0.9 mg, 1.28%). LRMS (APCI pos): >99% purity, 254 nm, m/e 559 (M+1). 1H NMR (400 MHz, CD3OD δ 8.34 (m, 2H), 8.22 (d, 1H), 8.07 (d, 1H), 7.67 (m, 2H), 7.52 (d, 1H), 7.43 (t, 1H), 7.30 (m, 2H), 6.27 (d, 1H), 3.91 (m, 2H), 3.75 (m, 2H), 3.48 (m, 2H), 3.39 (m, 2H), 2.23 (m, 2H).

reactant | N-(4-(1-(4-methoxybenzyl)-3-(1,4-diazepan-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 0.0894 mmol, 60.7 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C=3C(N(N=CC3)C3=CC=C(C=C3)F)=O)F)N3CCNCCC3)C=C1 | C36H32F2N8O4
reactant | CF3COOH | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(4-(3-(1,4-diazepan-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 0.9 mg, 1.28% | N1(CCNCCC1)C1=NNC2=NC=CC(=C21)OC2=C(C=C(C=C2)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O)F | C28H24F2N8O3
